US07691197B2
A) Preparation of 2,3-bis-(anilino)-but-2-enedioic acid dimethyl ester (Symmetric-1 of Examples 4-6))
In a round bottom flask with a teflon stirbar, 25 g (142 mmol) of dimethyl dihydroxyfumarate (prepared according to a procedure described in U.S. Pat. No. 3,334,102), 29.0 g (312.5 mmol) of aniline, 0.1 mL of concentrated HCl, and 90 mL of methyl alcohol were mixed and heated to reflux for 3 hours. The reaction mixture was cooled to room temperature and left overnight in a refrigerator. The next morning, the resulting thick paste was filtered on a coarse frit, washed with a 50% (v:v) methanol-water mixture, and dried in a vacuum oven, yielding 30.1 g (65% yield) which, according to NMR analysis, was a mixture of E/Z isomers (E:Z˜1:2).

reactant | dimethyl dihydroxyfumarate | 142 mmol, 25 g | O\C(=C(/C(=O)OC)\O)\C(=O)OC | C6H8O6
reactant | aniline | 312.5 mmol, 29.0 g | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 0.1 mL | Cl | ClH
solvent | methyl alcohol | 90 mL | CO | CH4O
product | 2,3-bis-(anilino)-but-2-enedioic acid dimethyl ester | 65% yield | COC(C(=C(C(=O)OC)NC1=CC=CC=C1)NC1=CC=CC=C1)=O | C18H18N2O4
